US09108969B2
tert-Butyl 2-oxopyrrolidine-1-carboxylate (10 g, 54.0 mmol) was dissolved in THF (75 mL) and cooled to −78° C. LDA (1.8 M in THF/heptane, 30.0 mL, 54.0 mmol) was added and the solution was stirred for 1 h. Ethyl 2-bromoacetate (9.02 g, 54.0 mmol) was added and the mixture was stirred for 1 h and allowed to warm to room temperature and stirred for 16 h. The reaction mixture was partitioned between water and EtOAc. The aqueous layer was extracted two times with EtOAc and the combined extracts were dried (sodium sulfate), filtered and concentrated under reduced pressure. The residue was purified by column chromatography to provide partially purified tert-butyl 3-(2-ethoxy-2-oxoethyl)-2-oxopyrrolidine-1-carboxylate. tert-Butyl 3-(2-ethoxy-2-oxoethyl)-2-oxopyrrolidine-1-carboxylate (4.72 g, 17.40 mmol) was dissolved in EtOH (30 mL) and TFA (10 mL). The reaction was stirred at room temperature for 2 h and 20 mL of TFA was added. After stirring for an additional 2 h, the reaction mixture was concentrated under reduced pressure and purified by column chromatography to provide the title compound (1.77 g). 1H NMR (400 MHz, CDCl3) δ ppm 1.26 (t, J=7.2 Hz, 3H), 1.81-1.93 (m, 1H), 2.35-2.49 (m, 2H), 2.75-2.85 (m, 1H), 2.88 (dd, J=16.4, 3.9 Hz, 1H), 3.31-3.40 (m, 2H), 4.09-4.21 (m, 2H), 5.96 (bs, 1H).

reactant | tert-Butyl 2-oxopyrrolidine-1-carboxylate | 54.0 mmol, 10 g | O=C1N(CCC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | LDA | 54.0 mmol, 1.8 M, 30.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | Ethyl 2-bromoacetate | 54.0 mmol, 9.02 g | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(2-ethoxy-2-oxoethyl)-2-oxopyrrolidine-1-carboxylate | C(C)OC(CC1C(N(CC1)C(=O)OC(C)(C)C)=O)=O | C13H21NO5
